US05882628
N,N'-Bis(2,3-dihydroxypropionyl)-N-(2,3-dihydroxypropyl)-3,5-diamino-2,4,6-triiodobenzylalcohol
N,N'-Bis(2,2-dimethyl-1,3-dioxolane-4-carbonyl)-3,5-diamino-2,4,6-triiodobenzylacetate (408 mg, 0.50 mmol) was dissolved in a mixture of dimethylacetamide (4 ml) and DMSO (4 ml) containing Cs2CO3 (1.80 g, 5.52 mmol) and 2,2-dimethyl-1,3-dioxolane-4-carboxylic acid chloride (2.0 ml). After stirring for 8 days, aqueous NaH2PO4 (100 ml) was added and the mixture was extracted with diethyl ether (2×150 ml). The combined organic phases were washed with water (6×100 ml), dried (Na2SO4) and evaporated. The residue was dissolved in a mixture of methanol (10 ml) and water (10 ml) and pH was adjusted to 12 with aqueous NaOH. After stirring for 2 h, concentrated HCl (1.0 ml) was added and stirring was continued for 16 h. After neutralization, the solvents were evaporated and the residue was purified by preparative HPLC. Yield: 149 mg (39%).

reactant | N,N'-Bis(2,2-dimethyl-1,3-dioxolane-4-carbonyl)-3,5-diamino-2,4,6-triiodobenzylacetate | 0.50 mmol, 408 mg | CC1(OCC(O1)C(=O)NC=1C(=C(CCC(=O)[O-])C(=C(C1I)NC(=O)C1OC(OC1)(C)C)I)I)C
reactant | Cs2CO3 | 5.52 mmol, 1.80 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,2-dimethyl-1,3-dioxolane-4-carboxylic acid chloride | 2.0 ml | CC1(OCC(O1)C(=O)Cl)C | C6H9ClO3
solvent | dimethylacetamide | 4 ml | CC(=O)N(C)C | C4H9NO
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | N,N'-Bis(2,3-dihydroxypropionyl)-N-(2,3-dihydroxypropyl)-3,5-diamino-2,4,6-triiodobenzylalcohol | OC(C(=O)N(C=1C(=C(CO)C(=C(C1I)NC(C(CO)O)=O)I)I)CC(CO)O)CO | C16H21I3N2O9
